US09056866B2
Step 4 (3S)-1-[5-tert-butyl-3-[(2-chlorophenyl)methyl]triazolo[4,5-d]pyrimidin-7-yl]pyrrolidin-3-ol
5-tert-butyl-7-chloro-3-(2-chlorobenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine (10 g, 29.7 mmol, Eq: 1.00) was dissolved in Acetonitrile (54.6 g, 70.0 ml). N-Ethyldiisopropylamin (7.84 g, 10.3 ml, 59.5 mmol, Eq: 2) was added dropwise over 5-10 min. After 10 min at RT, a solution of (S)-pyrrolidin-3-ol (2.94 g, 2.8 ml, 32.7 mmol, Eq: 1.1) in Acetonitrile (2.27 g, 2.91 ml) added dropwise over 30 min at 20° C. After 2 h30 reaction, toluene (86.5 g, 100 ml) was added and the reaction mixture was concentrated under reduced pressure to remove most of the acetonitrile. A 10% aqueous citric acid solution (100 ml) was added. The aqueous phase was separated and extracted with toluene (86.5 g, 100 ml). The organic phases were washed sequentially with half saturated aqueous NaHCO3 (50 ml) and half saturated aqueous NaCl (50 ml). The organic phases were combined dried over MgSO4 and rotavaped at 45° C./10 mbar. The crude product was taken up in ethanol (150 ml) and concentrated under reduced pressure. This was repeated twice in order to remove toluene and gave 11.1 g of the crude title compound as a light yellow solid/foam.

reactant | 5-tert-butyl-7-chloro-3-(2-chlorobenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine | 29.7 mmol, 10 g | C(C)(C)(C)C=1N=C(C2=C(N1)N(N=N2)CC2=C(C=CC=C2)Cl)Cl | C15H15Cl2N5
reactant | N-Ethyldiisopropylamin | 59.5 mmol, 10.3 ml, 7.84 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (S)-pyrrolidin-3-ol | 32.7 mmol, 2.8 ml, 2.94 g | N1C[C@H](CC1)O | C4H9NO
reactant | toluene | 100 ml, 86.5 g | C1(=CC=CC=C1)C | C7H8
solvent | Acetonitrile | 70.0 ml, 54.6 g | C(C)#N | C2H3N
solvent | Acetonitrile | 2.91 ml, 2.27 g | C(C)#N | C2H3N
product | (3S)-1-[5-tert-butyl-3-[(2-chlorophenyl)methyl]triazolo[4,5-d]pyrimidin-7-yl]pyrrolidin-3-ol | 11.1 g | C(C)(C)(C)C=1N=C(C2=C(N1)N(N=N2)CC2=C(C=CC=C2)Cl)N2C[C@H](CC2)O | C19H23ClN6O
